US06777406B2
(±)-cis-11-benzyl-6,7,10,11,12,12a-hexahydro-5H-[1,4]oxazepino[2,3,4-ij]pyrrolo[3,4-c]quinolin-9(9aH)-one
To absolution of (±)-cis ethyl 11-benzyl-9-oxo-6,7,10,11,12,12a-hexahydro-5H-[1,4]oxazepino[2,3,4-ij]pyrrolo[3,4-c]quinoline-9a(9H)-carboxylate (0.45 g, 1.11 mmol) in 20 mL of 1,4-dioxane was added 20 mL of 3N HCl and the resulting mixture was stirred at 100° C. for 24 h. The dioxane and most of the water was removed in vacuo, and the residue was basified with sat'd aq Na2CO3 and extracted with ethyl acetate. The layers were separated and the organics were washed with brine, dried (MgSO4), filtered through a pad of silica gel and concentrated to afford 0.33 g (89%) of the title compound of EXAMPLE 120 as an off-white powder. 1H NMR (CDCl3) δ: 7.41-7.27 (m, 5H), 6.97-6.81 (m, 3H), 4.60 (dt, 1H), 4.40 (ddd, 1H), 4.13 (ddd, 1H), 3.85-3.75 (m, 1H), 3.82 (broad s, 2H), 3.68-3.57 (m, 1H), 3.52-3.40 (m, 2H), 3.28-3.20 (m, 1H), 3.20-3.10 (m, 1H), 2.56 (t, 1H, J=9.9 Hz), 2.25-2.10 (m, 2H). LRMS (ES)+: 335.4 (M+H)+.

reactant | (±)-cis ethyl 11-benzyl-9-oxo-6,7,10,11,12,12a-hexahydro-5H-[1,4]oxazepino[2,3,4-ij]pyrrolo[3,4-c]quinoline-9a(9H)-carboxylate | 1.11 mmol, 0.45 g | C(C1=CC=CC=C1)N1C[C@]2(C(N3C4=C(C=CC=C4[C@H]2C1)OCCC3)=O)C(=O)OCC | C24H26N2O4
reactant | HCl | 3N, 20 mL | Cl | ClH
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | (±)-cis-11-benzyl-6,7,10,11,12,12a-hexahydro-5H-[1,4]oxazepino[2,3,4-ij]pyrrolo[3,4-c]quinolin-9(9aH)-one | 0.33 g, 89% | C(C1=CC=CC=C1)N1C[C@H]2C(N3C4=C(C=CC=C4[C@H]2C1)OCCC3)=O | C21H22N2O2
